US04558038
2-Oxo-4-phenylbutyric acid and L-alanyl-N-(3-thienyl)glycine are condensed in the presence of sodium cyanoborohydride to yield N-(1-carboxy-3-phenylpropyl)-L-alanyl-N-(3-thienyl)glycine.

reactant | 2-Oxo-4-phenylbutyric acid | O=C(C(=O)O)CCC1=CC=CC=C1 | C10H10O3
reactant | L-alanyl-N-(3-thienyl)glycine | N[C@@H](C)C(=O)N(CC(=O)O)C1=CSC=C1 | C9H12N2O3S
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-(1-carboxy-3-phenylpropyl)-L-alanyl-N-(3-thienyl)glycine | C(=O)(O)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)O)C1=CSC=C1 | C19H22N2O5S
